US08476457B2
To a solution of 3-amino-5-iodo-4-methyl-benzoic acid methyl ester (1.22 g, 4.21 mmol) in acetic acid (20 mL) was added isoamyl nitrate (0.675 mL, 4.63 mmol). The mixture was stirred at room temperature for 30 minutes and then concentrated under reduced pressure. The residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography to give 1.15 g (91%) of 4-iodo-1H-indazole-6-carboxylic acid methyl ester, MS (M+H)=303.

reactant | 3-amino-5-iodo-4-methyl-benzoic acid methyl ester | 4.21 mmol, 1.22 g | COC(C1=CC(=C(C(=C1)I)C)N)=O | C9H10INO2
reactant | isoamyl nitrate | 4.63 mmol, 0.675 mL | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-iodo-1H-indazole-6-carboxylic acid methyl ester | 1.15 g, 91% | COC(=O)C1=CC(=C2C=NNC2=C1)I | C9H7IN2O2
